US08334292B1
Preparation of 4-(((R)-1-methylsulfonyl-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 5, 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine with methanesulfonyl chloride to provide the title compound in 67% yield. 1H NMR (CDCl3, 400 MHz) δ 8.03 (s, 1H), 7.33 (d, 2H), 6.94 (d, 2H), 5.40 (sb, 1H), 4.35 (m, 2H), 4.08 (m, 1H), 3.88 (m, 4H), 3.55-3.31 (m, 4H), 3.18 (m, 4H), 2.76 (s, 3H), 2.17-2.10 (m, 1H), 1.86-1.25 (m, 9H), 0.95 (d, 3H); MS (ESI) m/z: Found: 530.3 (M+1). Calc. 529.3 (M+).

reactant | 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1C[C@@H](CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C26H37N5O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 4-(((R)-1-methylsulfonyl-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | 67% yield | CS(=O)(=O)N1C[C@@H](CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C27H39N5O4S
